US04487779
1,3-dimethyl-2,4-dinitrobenzene
1,3-dimethyl-2-nitrobenzene (151.2 g) is dissolved in 500 ml of CH2Cl2 and cooled to below 0° C. in a methanol ice bath. Sulfuric acid (200 ml) is added dropwise, maintaining a temperature at below 0° C. After the sulfuric acid addition is complete, fuming nitric acid (86 ml) is added dropwise at a rate which maintains the temperature between -5° to -2° C. After the addition is complete, the mixture is stirred at -3° to -5° C. for 2 hours. 200 ml of water are carefully added to the aqueous acidic layer and, after cooling to RT, the mixture is extracted with 600 ml of CH2Cl2. The extracts are combined and washed with 600 ml of H2O, saturated NaCl solution and dried overnight. The mixture is filtered and the filtrate concentrated to give 192.2 grams of a yellow solid, M.P. 81°-83° C.

reactant | 1,3-dimethyl-2-nitrobenzene | 151.2 g | CC1=C(C(=CC=C1)C)[N+](=O)[O-] | C8H9NO2
reactant | Sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 86 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 200 ml | O | H2O
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | 1,3-dimethyl-2,4-dinitrobenzene | 192.2 grams | CC1=C(C(=C(C=C1)[N+](=O)[O-])C)[N+](=O)[O-] | C8H8N2O4
